US09259470B2
1-(4-chloro-3-fluorophenethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one
NaH (11.1 mg, 0.277 mmol; 60% oil dispersion) neat as a solid was added to a stirred suspension of 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (75.4 mg, 0.277 mmol) in DMF (700 μL) at room temperature under nitrogen. After 15 minutes, a clear solution had formed. A solution of 4-chloro-3-fluorophenethyl methanesulfonate (105 mg, 0.416 mmol) in of DMF (700 μL) was then added dropwise. After stirring overnight, the reaction was quenched by addition of saturated ammonium chloride solution (1 mL). The mixture was partitioned between ethyl acetate (30 mL) and water (30 mL). The organics were isolated and washed with water (3×30 mL) and with brine (30 mL). The organics were isolated, dried (MgSO4), filtered and concentrated. The crude product was loaded onto a Biotage 12M column with 2.5/97.5 methanol/ethyl acetate and eluted. The undesired O-alkylated product eluted first and was not collected. Product containing fractions then eluted and were pooled and concentrated to an oil that eventually solidified, 1-(4-chloro-3-fluorophenethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (20 mg, 17%). 1H NMR (400 MHz, CDCl3) δ 8.38 (d, 1H), 7.30 (dd, 1H), 7.18 (br s, 1H), 7.02 (d, 1H), 6.98 (dd, 1H), 6.90 (m, 2H), 6.66 (dd, 1H), 5.17 (br d, 1H), 4.16 (t, 2H), 4.12 (m, 1H), 4.00 (m, 2H), 3.57 (m, 2H), 3.08 (t, 2H), 2.06 (m, 2H), 1.58 (m, 2H); m/z (APCI-pos) M+1=430.1.

reactant | NaH | 0.277 mmol, 11.1 mg | [H-].[Na+]
reactant | 4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.277 mmol, 75.4 mg | O1CCC(CC1)NC1=NC=CC(=N1)C1=CC(NC=C1)=O | C14H16N4O2
reactant | 4-chloro-3-fluorophenethyl methanesulfonate | 0.416 mmol, 105 mg | CS(=O)(=O)OCCC1=CC(=C(C=C1)Cl)F | C9H10ClFO3S
solvent | DMF | 700 μL | CN(C)C=O | C3H7NO
solvent | DMF | 700 μL | CN(C)C=O | C3H7NO
product | 1-(4-chloro-3-fluorophenethyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | ClC1=C(C=C(CCN2C(C=C(C=C2)C2=NC(=NC=C2)NC2CCOCC2)=O)C=C1)F | C22H22ClFN4O2
